US06420567B1
To a solution of pentamethylbenzene (5 g, 33.8 mmol) in dichloromethane (250 mL) at 0° C. was quickly added nitronium tetrafluoroborate (5 g). The mixture was stirred for 4 h before it was quenched with cold water. The organic layer was concentrated and the residue was reduced (Example 14, procedure C) to give pentamethylaniline in 52% yield.

reactant | pentamethylbenzene | 33.8 mmol, 5 g | CC=1C(=C(C(=C(C1)C)C)C)C | C11H16
reactant | nitronium tetrafluoroborate | 5 g | F[B-](F)(F)F.O=[N+]=O
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | pentamethylaniline | 52% yield | CC1=C(C(=C(C(=C1N)C)C)C)C | C11H17N
